US05149357
The reaction was repeated replacing the sodium metal with ethyl acetoacetate, sodium salt. Thus, 12.6 grams (0.097 mole) of ethyl acetoacetate, 0.5 gram (0.003 mole) of ethyl acetoacetate, sodium salt and 13.2 grams (0.100 mole) of trans-cinnamaldehyde in 50 mL of ethanol were reacted in a manner analogous to that of Example 6, Step A. A 100% yield (24.4 grams) of 2-ethoxycarbonyl-3-phenylcyclohex-5-enone was assumed.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | [Na] | Na
reactant | ethyl acetoacetate | 0.097 mole, 12.6 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | trans-cinnamaldehyde | 0.100 mole, 13.2 grams | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | ethyl acetoacetate | 0.003 mole, 0.5 gram | C(CC(=O)C)(=O)OCC | C6H10O3
product | 2-ethoxycarbonyl-3-phenylcyclohex-5-enone | 24.4 grams, 100% yield | C(C)OC(=O)C1C(C=CCC1C1=CC=CC=C1)=O | C15H16O3
